US09328067B2
4-chloro-N-(5-chloro-2-{[3-oxo-3-(pyrrolidin-1-yl)propyl]sulfanyl}phenyl)-3-(trifluoromethyl)benzenesulfonamide
Following General Procedure B, the title compound (242 mg, 17%) was prepared from 3-((2-amino-4-chlorophenyl)thio)-1-(pyrrolidin-1-yl)propan-1-one (758 mg, 2.67 mmol) and 4-chloro-3-(trifluoromethyl)benzene-1-sulfonyl chloride (745 mg, 2.67 mmol) in pyridine (10 ml).

reactant | 3-((2-amino-4-chlorophenyl)thio)-1-(pyrrolidin-1-yl)propan-1-one | 2.67 mmol, 758 mg | NC1=C(C=CC(=C1)Cl)SCCC(=O)N1CCCC1 | C13H17ClN2OS
reactant | 4-chloro-3-(trifluoromethyl)benzene-1-sulfonyl chloride | 2.67 mmol, 745 mg | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3Cl2F3O2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-chloro-N-(5-chloro-2-{[3-oxo-3-(pyrrolidin-1-yl)propyl]sulfanyl}phenyl)-3-(trifluoromethyl)benzenesulfonamide | 242 mg, 17% | ClC1=C(C=C(C=C1)S(=O)(=O)NC1=C(C=CC(=C1)Cl)SCCC(N1CCCC1)=O)C(F)(F)F | C20H19Cl2F3N2O3S2
